US08227639B2
4-Bromo-N-(morpholin-4-y)thiophene-2-carboxamide
To a solution of 4-bromo-2-thiophenecarbonyl chloride (1.0 g, 4.4 mmol) in DCM (10 ml) cooled to 0° C. was added DIPEA (0.85 ml, 4.8 mml) and morpholine (0.4 g, 4.6 mmol) dropwise. Stirring was continued until complete consumption of the starting material was observed by LC-MS. The reaction was quenched by the addition of water, which was washed with further portions of 2N HCl, dried over sodium sulfate, filtered and concentrated in vacuo to yield the desired compound without need for further purification (1.2 g, 100%). δH (500 MHz, CHLOROFORM-d) 7.38 (1H, s), 7.18 (1H, s), 3.63-3.83 (8H, m); TR=1.52 min.

reactant | 4-bromo-2-thiophenecarbonyl chloride | 4.4 mmol, 1.0 g | BrC=1C=C(SC1)C(=O)Cl | C5H2BrClOS
reactant | DIPEA | 0.85 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 4.6 mmol, 0.4 g | N1CCOCC1 | C4H9NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-(morpholin-4-y)thiophene-2-carboxamide | BrC=1C=C(SC1)C(=O)NN1CCOCC1 | C9H11BrN2O2S
